US05599984
1,2-dibenzoylethane (4.76 g), aminoguanidine bicarbonate (5.45 g), and concentrated hydrochloric acid (3.33 mL) were heated in 50% ethanol (60 mL) for 24 hr. Cooling, concentration and filtration gave 4.3 g of 2,2'-(1,4-diphenyl-1,4-butanediylidene)bis(hydrazinecarboximidamide) dihydrochloride, mp 285°-6° C.

reactant | 1,2-dibenzoylethane | 4.76 g | C(C1=CC=CC=C1)(=O)CCC(C1=CC=CC=C1)=O | C16H14O2
reactant | aminoguanidine bicarbonate | 5.45 g | C(O)(O)=O.NNC(=N)N
reactant | hydrochloric acid | 3.33 mL | Cl | ClH
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 2,2'-(1,4-diphenyl-1,4-butanediylidene)bis(hydrazinecarboximidamide) dihydrochloride | 4.3 g | Cl.Cl.C1(=CC=CC=C1)C(CCC(C1=CC=CC=C1)=NNC(N)=N)=NNC(N)=N | InChI=1S/C18H22N8.2ClH/c19-17(20)25-23-15(13-7-3-1-4-8-13)11-12-16(24-26-18(21)22)14-9-5-2-6-10-14;;/h1-10H,11-12H2,(H4,19,20,25)(H4,21,22,26);2*1H
